US07132425B2
A solution of N-(6-nitro-pyridin-3-yl)-methanesulfonamide (298 mg, 1.37 mmol) in methanol (8.3 mL) was treated with a solution of ammonium chloride (154 mg, 2.88 mmol) in water (1 mL). This solution was stirred at 25° C. for 5 min. At this time, zinc dust (879 mg, 13.44 mmol) was added to the reaction. The resulting reaction mixture was then heated under reflux for 3 h. At this time, the reaction was cooled to 25° C. and then was filtered through a pad of celite (9/1 methylene chloride/methanol wash). The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 9/1 methylene chloride/methanol) afforded N-(6-amino-pyridin-3-yl)-methanesulfonamide (196.3 mg, 76.4%) as a reddish-brown oil: EI-HRMS m/e calcd for C6H9N3O2S (M+) 184.0415, found 184.0415.

reactant | N-(6-nitro-pyridin-3-yl)-methanesulfonamide | 1.37 mmol, 298 mg | [N+](=O)([O-])C1=CC=C(C=N1)NS(=O)(=O)C | C6H7N3O4S
reactant | ammonium chloride | 2.88 mmol, 154 mg | [Cl-].[NH4+]
solvent | methanol | 8.3 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
catalyst | zinc | 13.44 mmol, 879 mg | [Zn] | Zn
product | N-(6-amino-pyridin-3-yl)-methanesulfonamide | 196.3 mg, 76.4% | NC1=CC=C(C=N1)NS(=O)(=O)C | C6H9N3O2S
